US08835411B2
Ethyl 5-(benzoyloxy)-2-(1-(benzyloxycarbonylamino)-4,4-bis(tosyloxymethyl)cyclohexyl)-6-oxo-1,6-dihydropyrimidine-4-carboxylate
To a solution of ethyl 2-(1-(benzyloxycarbonylamino)-4,4-bis(tosyloxymethyl)cyclohexyl)-5-hydroxy-6-oxo-1,6-dihydropyrimidine-4-carboxylate, Intermediate 13, (88 g, 112 mmol) in pyridine (500 ml) was added benzoic anhydride (27.1 g, 118 mmol) and the mixture stirred at room temp for 20 hrs. The mixture was concentrated to dryness by rotary evaporator, and the residue, dissolved in EtOAc (700 mL), was washed with 1.0 N HCl, sat'd aq. NaHCO3, and then with brine, dried (Na2SO4) and concentrated to afford the crude product as an amber gummy solid after azeotroping with Et2O. The reaction was purified by passing through a silica gel pad in a large sintered glass funnel, loading with minimal CH2Cl2, and eluting with 30%-60% EtOAc in hexanes (2000 mL each step, 10% steps). Product containing fractions were pooled and concentrated, to afford 44.32 g (49.9 mmol, 44.6% yield) of the title compound as a pale yellow oil. HPLC (System A): 3.69 min.

reactant | ethyl 2-(1-(benzyloxycarbonylamino)-4,4-bis(tosyloxymethyl)cyclohexyl)-5-hydroxy-6-oxo-1,6-dihydropyrimidine-4-carboxylate | C(C1=CC=CC=C1)OC(=O)NC1(CCC(CC1)(COS(=O)(=O)C1=CC=C(C)C=C1)COS(=O)(=O)C1=CC=C(C)C=C1)C=1NC(C(=C(N1)C(=O)OCC)O)=O | C37H41N3O12S2
reactant | benzoic anhydride | 118 mmol, 27.1 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
solvent | pyridine | 500 ml | N1=CC=CC=C1 | C5H5N
product | Ethyl 5-(benzoyloxy)-2-(1-(benzyloxycarbonylamino)-4,4-bis(tosyloxymethyl)cyclohexyl)-6-oxo-1,6-dihydropyrimidine-4-carboxylate | 49.9 mmol, 44.32 g, 44.6% yield | C(C1=CC=CC=C1)(=O)OC1=C(N=C(NC1=O)C1(CCC(CC1)(COS(=O)(=O)C1=CC=C(C)C=C1)COS(=O)(=O)C1=CC=C(C)C=C1)NC(=O)OCC1=CC=CC=C1)C(=O)OCC | C44H45N3O13S2
